US06458766B1
To a solution of 13.3 mg of Halovir A in 0.5 mL of pyridine was added 0.5 mL of acetic anhydride and 1.2 mg of N,N-dimethylaminopyridine. The reaction mixture was stirred under nitrogen at ambient temperature for 16 hours. The solvent was removed in vacuo, and the crude mixture was partitioned between 3 mL of saturated sodium bicarbonate and 3 mL of ethyl acetate. The layers were separated and the aqueous layer was washed with 2×3 mL of ethyl acetate. The organic layers were combined and washed with 5 mL each of 1 N HCl and brine, dried over Na2CO3, filtered, and concentrated in vacuo. The crude product was purified by C18 HPLC using 2.5% H2O in methanol. Pure Halovir D was obtained as a colorless oil and was characterized by mass spectrometry, and proton and carbon NMR spectroscopy.

reactant | Halovir A | 13.3 mg | CCCCCCCCCCCCCC(=O)NC(C)(C)C(=O)N1C[C@H](CC1C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)N)C(=O)N[C@@H](CC(C)C)CO)O | C45H83N7O9
reactant | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | Halovir D | CCCCCCCCCCCC(=O)NC(C)(C)C(=O)N1C[C@H](CC1C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)N)C(=O)N[C@@H](CC(C)C)CO)O | C43H79N7O9
